US07557103B2
C. 1,5,6-Trimethyl-2-iodo-benzimidazole
In an oven dried nitrogen purged 3 neck 50 mL round bottom flask, 1.00 g (0.624 mmol) of 1,5,6-trimethylbenzimidazole in 2 mL of dry tetrahydrofuran is cooled to −78° C. 0.881 mL (1.498 mmol) of 1.7 M t-butyllithium in hexanes is added and the reaction mixture is stirred at −78° C. for 1 h. 0.154 g (0.686 mmol) of NIS in 2 mL of dry tetrahydrofuran is added. Reaction is removed from bath and stirred at room temperature for 1 hour, quenched with saturated aqueous solution of ammonium chloride, and diluted with dichloromethane. The layers are separated, the aqueous is extracted 3×25 mL dichloromethane, dried (MgSO4), and concentrated. The crude mixture is purified by chromatography using hexanes:ethyl acetate as a solvent system. The product containing fractions are combined to obtain 0.055 g of the title compound, 31% yield. MS, ES+=287.0 (M+1); 1H NMR (DMSO-d6) δ 7.337-7.324 (d, 2H); 3.684 (s, 3H); 2.309 (s, 3H); 2.275 (s, 3H) ppm.

reactant | 1,5,6-trimethylbenzimidazole | 0.624 mmol, 1.00 g | CN1C=NC2=C1C=C(C(=C2)C)C | C10H12N2
reactant | t-butyllithium | 1.498 mmol, 1.7 M, 0.881 mL | C(C)(C)(C)[Li]
reactant | NIS | 0.686 mmol, 0.154 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1,5,6-Trimethyl-2-iodo-benzimidazole | 0.055 g, 31% yield | CN1C(=NC2=C1C=C(C(=C2)C)C)I | C10H11IN2
